US07655671B2
Synthesis of 4,5α-epoxy-3-hydroxy-17,17-dimethyl-6-oxo-14β-[(3-phenylpropyl)oxy]morphinanium-iodide (compound 38)
A solution of 4,5α-epoxy-3-hydroxy-17-methyl-14β-[(3-phenylpropyl)oxy]morphinan-6-one (oil, 257 mg, 0.61 mmol) and methyl iodide (0.38 ml, 6.11 mmol) in acetonitrile (10 ml) was stirred for 2 days at 50° C. (bath temperature) under N2. A DC examination showed that the reaction was not concluded. Therefore further methyl iodide (0.38 ml, 6.11 mmol) was added and the solution stirred further for 3 days under the same conditions. Then the solvent was evaporated off and the evaporation residue (367 mg of yellow foamy resin) was purified using column chromatography (silica gel; CH2Cl2/MeOH (10:1)). Evaporation residue 240 mg (71%) amorphous compound 38. Fp. 164-170° C.; IR (KBr): 1723 (C═O) cm−1; 1H-NMR (DMSO-d6): δ 9.57 (s, C3-OH), 7.3-7.16 (m, 5 arom. H), 6.67 (s, 2 arom. H, C1—H, C2—H), 4.88 (s, C5—H), 3.56 (s, N+CH3, axial), 3.21 (s, +NCH3, equatorial); MS (CI): m/z 434 (M+).

reactant | 4,5α-epoxy-3-hydroxy-17-methyl-14β-[(3-phenylpropyl)oxy]morphinan-6-one | 0.61 mmol, 257 mg | O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4C)=O)OCCCC4=CC=CC=C4)O | C26H29NO4
reactant | methyl iodide | 6.11 mmol, 0.38 ml | CI | CH3I
reactant | methyl iodide | 6.11 mmol, 0.38 ml | CI | CH3I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4,5α-epoxy-3-hydroxy-17,17-dimethyl-6-oxo-14β-[(3-phenylpropyl)oxy]morphinanium-iodide | [I-].O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CC[N+]4(C)C)=O)OCCCC4=CC=CC=C4)O | InChI=1S/C27H31NO4.HI/c1-28(2)15-14-26-23-19-10-11-20(29)24(23)32-25(26)21(30)12-13-27(26,22(28)17-19)31-16-6-9-18-7-4-3-5-8-18;/h3-5,7-8,10-11,22,25H,6,9,12-17H2,1-2H3;1H/t22-,25+,26+,27-;/m1./s1
